US08471005B2
Example 668 2-(4-{4-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-ethanol; compound with trifluoroacetic acid
The titled compound was prepared in analogous fashion as Example 522 using 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol, N-phenylbis(trifluoromethanesulphonimide) and 2-[4-(4-amino-phenyl)-piperidin-1-yl]-ethanol to give 2-(4-{4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-ethanol; compound with trifluoroacetic acid as a light orange lyophilate (81.2 mg, 52% yield). LCMS (E/I+) 444 (M+H). 1H NMR (400 MHz; DMSO-d6) δ 9.41 (s, 1H), 9.35 (broad s, 1H), 8.96 (s, 1H), 7.82 (d, 1H, J=7.4 Hz), 7.67 (d, 2H, J=8.1 Hz), 7.47 (t, 1H, J=7.5 Hz), 7.22 (d, 1H, 8.3 Hz), 7.12 (t, 1H, J=7.5 Hz), 7.07 (d, 1H, J=8.1 Hz), 6.94 (dd, 2H, J=4.4, 10 Hz), 3.81 (s, 3H), 3.78 (m, 2H), 3.60 (d, 2H, J=12 Hz), 3.37 (d, 1H, J=12.9 Hz), 3.19 (d, 2H, J=4 Hz), 3.06 (m, 2H), 2.73 (m, 1H), 1.93 (m, 4H), 1.73 (p, 1H, J=14 Hz).

reactant | 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | N-phenylbis(trifluoromethanesulphonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 2-[4-(4-amino-phenyl)-piperidin-1-yl]-ethanol | NC1=CC=C(C=C1)C1CCN(CC1)CCO | C13H20N2O
product | 2-(4-{4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-ethanol; compound with trifluoroacetic acid | FC(C(=O)O)(F)F.COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CCO | InChI=1S/C26H29N5O2.C2HF3O2/c1-33-25-5-3-2-4-23(25)24-11-10-22-18-27-26(29-31(22)24)28-21-8-6-19(7-9-21)20-12-14-30(15-13-20)16-17-32;3-2(4,5)1(6)7/h2-11,18,20,32H,12-17H2,1H3,(H,28,29);(H,6,7)
